US04308274
Synthesis of 3-isopropylphenyl N-(N'-benzenesulfonyl-N'-methylaminosulfinyl)-N-methylcarbamate
To a solution of 3-isopropylphenyl methylcarbamate (3.9 g, 0.02 mol) in dry tetrahydrofuran (15 ml), was added pyridine (2.0 g, 0.025 mol) and thionyl chloride (2.5 g, 0.021 mol). The mixture was stirred at room temperature for 4 hours. Pyridine hydrochloride was filtered rapidly and N-methylbenzenesulfonamide (3.5 g, 0.02 mol) was added. The mixture was cooled in an ice-water bath and triethylamine (2.2 g, 0.022 mol) was added dropwise. After the complete addition of the amine the mixture was stirred at room temperature for an additional half hour.

reactant | 3-isopropylphenyl methylcarbamate | 0.02 mol, 3.9 g | CNC(OC1=CC(=CC=C1)C(C)C)=O | C11H15NO2
reactant | pyridine | 0.025 mol, 2.0 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.021 mol, 2.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | N-methylbenzenesulfonamide | 0.02 mol, 3.5 g | CNS(=O)(=O)C1=CC=CC=C1 | C7H9NO2S
reactant | triethylamine | 0.022 mol, 2.2 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3-isopropylphenyl N-(N'-benzenesulfonyl-N'-methylaminosulfinyl)-N-methylcarbamate | C1(=CC=CC=C1)S(=O)(=O)N(S(=O)N(C(OC1=CC(=CC=C1)C(C)C)=O)C)C | C18H22N2O5S2
